US06288082B1
4-(1,1-Dioxo-1H-benzo[b]thiophen-6-ylamino)-6,7-diethoxy-quinoline-3-carbonitrile
A solution of 400 mg (1.44 mM) of 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile, 230 mg (1.54 mM) of 6-Amino-1,1-dioxobenzo[b]thiophene and 161 mg of pyridine hydrochloride in 12 ml of 2-methoxyethanol was refluxed for 6 hours. To the warm solution was added 1 ml of 1M sodium carbonate and the sample was heated for 5 minutes at 100° C., then poured into 300 ml of ice water. The solid was collected, washed with water followed by ether and dried under vacuum at 80° C. The solid was dissolved in acetone and dried onto silica gel under high vacuum. Purification of the compound was obtained by chromatography using a gradient of 30% to 50% acetone in hexane. The first of the three components of the mixture isolated from the column was the desired product. Removal of the solvent by evaporation yielded 69 mg of 4-(1,1-Dioxo-1H-benzo[b]thiophen-6-ylamino)-6,7-diethoxy-quinoline-3-carbonitrile as a yellow solid: mass spectrum (electrospray, m/e): M+H 421.9, mp=155-160° C.

reactant | 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile | 1.44 mM, 400 mg | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 6-Amino-1,1-dioxobenzo[b]thiophene | 1.54 mM, 230 mg | NC=1C=CC2=C(S(C=C2)(=O)=O)C1 | C8H7NO2S
reactant | pyridine hydrochloride | 161 mg | Cl.N1=CC=CC=C1
reactant | sodium carbonate | 1M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-methoxyethanol | 12 ml | COCCO | C3H8O2
solvent | hexane | CCCCCC | C6H14
solvent | acetone | CC(=O)C | C3H6O
product | 4-(1,1-Dioxo-1H-benzo[b]thiophen-6-ylamino)-6,7-diethoxy-quinoline-3-carbonitrile | O=S1(C2=C(C=C1)C=CC(=C2)NC2=C(C=NC1=CC(=C(C=C21)OCC)OCC)C#N)=O | C22H19N3O4S
